### PR TITLE
danielrrr/babyzksnakrs formalisation

### PR DESCRIPTION
**Pull request by mpenciak**

### CODE REVIEW

File: ZkSNARK/GeneralLemmas/PolynomialMvSvCast.lean [hunk 1]
```diff
@@ -0,0 +1,21 @@
...
+
+section
+
+universe u
+
+variable {R : Type u} [CommSemiringₓ R]
+
+/-- Converting a single variable polynomial to a multivariable polynomial and back yields the same polynomial -/
+lemma multivariable_to_single_variable (S : Type) (s : S) (f : S → Polynomial R) (hf : f s = @Polynomial.x R _) (t : Polynomial R) : 
+  ((t.eval₂ MvPolynomial.c (MvPolynomial.x s)).eval₂ Polynomial.c f) = t := by
```
Comment (DanielRrr) [inline ZkSNARK/GeneralLemmas/PolynomialMvSvCast.lean:13]: You've managed to fix it, splendid

File: ZkSNARK/BabyZkSNARK/KnowledgeSoundness.lean [hunk 2]
```diff
@@ -132,9 +132,8 @@ def V_stmt_mv (a_stmt : Finₓ n_stmt → F) : MvPolynomial Vars F :=
 /-- Converting a single variable polynomial to a multivariable polynomial and back yields the same polynomial -/
 lemma my_multivariable_to_single_variable 
   (p : Polynomial F) : ((p.eval₂ MvPolynomial.c (X_poly F)).eval₂ Polynomial.c singlify) = p := by
-  sorry
-  -- apply multivariable_to_single_variable
-  -- simp
+  apply multivariable_to_single_variable
+  simp_rw [singlify]
```
Comment (DanielRrr) [inline ZkSNARK/BabyZkSNARK/KnowledgeSoundness.lean:136]: Looks good

**Review by DanielRrr — APPROVED** [review]
Looks good to me
